2185-08-11 05:42:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 NASAL SWAB - At [**2185-8-10**] 11:04 AM
 LUMBAR PUNCTURE - At [**2185-8-10**] 05:30 PM
   LP done by Dr. [**Last Name (STitle) 980**] at bedside. Dr. [**Last Name (STitle) 980**] reports CSF pressure normal at
   14. Reports previously elevated CSF pressure was falsely elevated.
 MAGNETIC RESONANCE IMAGING - At [**2185-8-10**] 10:00 PM
   [**8-10**]
   Neurosurgery left parietal lobe biopsy with possible REVD planned for
   tomorrow am
   - NPO after midnight
   - MRI with contrast tonight, CT with contrast tomorrow prior to
   procedure
   -mucomyst and bicarbonate for renal protection
   -repeat LP was traumatic with opening pressure of 15mmHg
   Allergies:
   Adhesive Tape (Topical)
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2185-8-10**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2185-8-11**] 05:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.8
C (98.2
   HR: 73 (73 - 87) bpm
   BP: 150/48(74) {126/33(66) - 185/106(110)} mmHg
   RR: 16 (10 - 24) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
             Total In:
                                                                  1,768 mL
                                                                    426 mL
   PO:
                                                                    120 mL
             TF:
   IVF:
                                                                  1,648 mL
                                                                    426 mL
   Blood products:
   Total out:
                                                                    900 mL
                                                                      0 mL
   Urine:
                                                                    900 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    868 mL
                                                                    426 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 94%
   ABG: ///21/
   Physical Examination
   Vitals: T: BP: P: R: 18 O2:
   General: Alert, oriented, no acute distress
   HEENT: Sclera anicteric, MMM, oropharynx clear
   Neck: supple, JVP not elevated, no LAD
   Lungs: Clear to auscultation bilaterally, no wheezes, rales, ronchi
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen: soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly
   GU: no foley
   Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema
   Labs / Radiology
   95 K/uL
   10.3 g/dL
   155 mg/dL
   1.7 mg/dL
   21 mEq/L
   4.1 mEq/L
   21 mg/dL
   108 mEq/L
   140 mEq/L
   31.9 %
   4.3 K/uL
        [image002.jpg]
                             [**2185-8-10**]  06:14 AM
                             [**2185-8-11**]  04:23 AM
   WBC
   3.8
   4.3
   Hct
   33.0
   31.9
   Plt
   97
   95
   Cr
   1.6
   1.7
   Glucose
   159
   155
   Other labs: PT / PTT / INR:11.6/21.8/1.0, Alk Phos / T Bili:/0.2,
   Differential-Neuts:46.0 %, Band:0.0 %, Lymph:20.0 %, Mono:24.0 %,
   Eos:9.0 %, Albumin:3.4 g/dL, LDH:269 IU/L, Ca++:8.5 mg/dL, Mg++:2.1
   mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
 HYPERTENSION, MALIGNANT (HYPERTENSIVE CRISIS, HYPERTENSIVE EMERGENCY)
   ASSESSMENT AND PLAN:
   63-year-old male with DM-II, HTN, CAD, CKD, non-Hodgkin B-cell lymphoma
   s/p chemotherapy (no radiation therapy),  s/p kidney transplant (on
   Rapamune & Prednisone) who presents with worsening HTN urgency and 2
   weeks of throbbing headaches and found to have extensive bihemispheric
   white matter lesions on MRI (R temporal and L parieto-occipital).
   .
   .
   #Headaches: Likely due to multiple lesions noted on brain MRI in
   conjunction with poorly controlled HTN. Based on Lesions on MRI most
   likely differential includes lymphoma, viral (toxoplasmosis), and PML.
   Posterior reversible encephalopathy syndrome (PRES) also in the
   differential as well, although less likely. LP CSF with 2WBC, 1RBC, 85
   lymphocytes, 15 monos, elevated protein of 162, and normal glucose in
   the 70s which makes bacterial/fungal sources highly unlikely.
   .
   --f/up neurology recs
   --continue Tylenol
   --follow-up final MRI read
   --consider full NSG consult / ? biopsy for firm diagnosis
   --keep goal SBP between 130-160s on NTG drip
   --consider MR spectroscopy for further assessment of the lesions & felt
   he would likely need biopsy for firm diagnosis.
   .
   #HEME/Oncology: B-cell lymphoma diagnosed [**1-/2185**], patient is now s/p 6
   cycles of chemotherapy (R-[**Hospital1 **] x5, R-CHOP x1) and 2 cycles of IT ara-C
   with last dose given on [**2185-7-13**] per OMR. No radiation therapy. Patient
   had been on immunosuppression meds for many years for renal transplant
   which may have played role in malignancy risk. Followed here by Dr.
   [**Last Name (STitle) 6604**] & Dr. [**Last Name (STitle) 3337**]
   .
   --f/up final MRI read
   --collect chemistries/LDH/CBC with differential (unable to get labs in
   ED)
   --call formal Oncology consult and f/up Heme/Onc recs in a.m.
   --consider biopsy/NSG consult for tissue biopsy to confirm if mass is
   lymphoma--> d/w Heme/Onc
   --intracranial edema noted, will discuss mannitol and increase
   glucocorticoids with NSG/neuro
   .
   #Hypertension: In regards to his HTN, it appears his SBPs have been
   intermittently in the 170s over last month per OMR notes and his usual
   lisinopril and lasix have been discontinued for unclear reasons(likely
   related to his chemotherapies). Although not classical for PRES, given
   the possibility neurology team recommending goal SBP < 160 for tighter
   BP control. Of note, he also had borderline pulmonary artery systolic
   hypertension on [**5-/2185**] TTE.
   .
   --continue NTG gtt with goal SBPs 130s-160s range
   --continue usual carvedilol, clonidine
   --will consider diuresis with mannitol as above, or additional ACE or
   CCB as he is weaned off NTG if needed
   .
   #Renal transplant: His creatinine was 1.7 yesturday near usual baseline
   of 1.6-1.7 range. He is on sirolimus and prednisone for
   immunosuppression.
   .
   --consult renal transplant service
   --avoiding nephrotoxic medications
   --trend BUN/Cr
   --continue on Prednisone daily with Rapamune 2mg every other day
   --f/up sirolimus level
   .
   # Diabetes mellitus II: Etiology of his renal failure per OMR. Usually
   on home Lantus with humalog sliding scale. Followed by [**Hospital 294**] Clinic.
   .
   --continue home lantus dose ( need to verify w/wife -dose?)
   --[**Name2 (NI) **] fingersticks with SSI coverage for now
   --continue diabetic/cardiac diet
   .
   # Coronary artery disease: status-post 3V CABG in [**2173**]. No chest pain,
   EKG with no ischemic changes. He remains asymptomatic currently in
   [**Hospital Unit Name 10**]. Aspirin on hold due to IT chemotherapy per OMR.
   .
   --repeat EKG
   --continue carvedilol
   --holding ASA, statin for now
   .
   #Phantom limb pain: continue tylenol as needed, recently stopped taking
   Vicodin.
   .
   #GERD: continue protonix [**Hospital1 **]
   .
   #Access:  PIVs  x 2
   .
   #Full Code status, confirmed with patient
   .
   #Dispo - [**Hospital Unit Name 10**] while control BP and switch to PO medications, then
   consider transfer to OMED service
   .
   #Communication/social: [**First Name4 (NamePattern1) 7032**] [**Name (NI) 7033**] [**Name (NI) 2979**] #[**Telephone/Fax (1) 7034**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2185-8-10**] 06:22 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2185-08-11 10:38:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   No new clnical complaints.
   BP control now on clonidine alone (iv NTG drip d/c'd last PM).
   Repeat LP performed last PM demonstrated opening pressure of 14
   (normal).
   Head MRI performed.
   History obtained from [**Hospital 31**] Medical records
   Allergies:
   Adhesive Tape (Topical)
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2185-8-11**] 07:38 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: NPO, No(t) Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, No(t) Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, No(t) Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: [**4-13**] Mild
   Pain location: head
   Flowsheet Data as of  [**2185-8-11**] 10:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.7
C (98
   HR: 71 (71 - 87) bpm
   BP: 163/52(80) {129/33(66) - 185/76(104)} mmHg
   RR: 16 (10 - 21) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
             Total In:
                                                                  1,768 mL
                                                                    898 mL
   PO:
                                                                    120 mL
                                                                    120 mL
   TF:
   IVF:
                                                                  1,648 mL
                                                                    778 mL
   Blood products:
   Total out:
                                                                    900 mL
                                                                    360 mL
   Urine:
                                                                    900 mL
                                                                    360 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    868 mL
                                                                    538 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ///21/
   Physical Examination
   General Appearance: Well nourished, No acute distress, No(t) Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand, Left BKA
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, No(t) Oriented (to): , Movement: Purposeful, No(t) Sedated,
   No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   10.3 g/dL
   95 K/uL
   155 mg/dL
   1.7 mg/dL
   21 mEq/L
   4.1 mEq/L
   21 mg/dL
   108 mEq/L
   140 mEq/L
   31.9 %
   4.3 K/uL
        [image002.jpg]
                             [**2185-8-10**]  06:14 AM
                             [**2185-8-11**]  04:23 AM
   WBC
   3.8
   4.3
   Hct
   33.0
   31.9
   Plt
   97
   95
   Cr
   1.6
   1.7
   Glucose
   159
   155
   Other labs: PT / PTT / INR:11.6/21.8/1.0, Alk Phos / T Bili:/0.2,
   Differential-Neuts:46.0 %, Band:0.0 %, Lymph:20.0 %, Mono:24.0 %,
   Eos:9.0 %, Albumin:3.4 g/dL, LDH:269 IU/L, Ca++:8.5 mg/dL, Mg++:2.1
   mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
   HYPERTENSION -- underlying HTN disease.  Improved control.  Now on
   clonidine alone, will add b-blocker.
   HEADACHE -- attributed predominately to hypertension.  Opening pressure
   elevated.  Concern raised for intracranial abnormalities (based on MRI
   new white matter lesions) -- possible lymphoma.  No evidence for
   meningitits or encephalitis by CSF analysis.
   CNS ABNORMALITIES -- predominately white matter abnormality, bilateral
   by asymetri (ex. right frontal and left posterior).  Neurology and
   Neurooncology services following.  Awaiting further CSF testing
   results.  Recommendation for further imaging
 head MRI and head CT.
   For Biopsy today.
   VENTRICULAR ECTOPY --  non-malignant.  Consider resuming b-blocker for
   improved control.
   NIDDM -- continue usual insulin.  Monitor glucose.  Maitain <150.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2185-8-10**] 06:22 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: H2 blocker
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2185-08-12 06:29:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Htn, HAs with new mass on CT, s/p brain biopsy.
   24 Hour Events:
 OR SENT - At [**2185-8-11**] 01:13 PM
   - brain biopsy-90% sure it is lymphoma
   - start steroids 4 mg IV q6 post biopsy
   - IR to place line tomorrow for CVVHD in anticipation of methotrexate
   therapy
   - neurosurg recs BPs <140
   Allergies:
   Adhesive Tape (Topical)
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2185-8-11**] 07:38 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2185-8-12**] 06:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 37.1
C (98.8
   HR: 98 (71 - 99) bpm
   BP: 134/51(77) {112/43(63) - 177/89(114)} mmHg
   RR: 14 (10 - 21) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
             Total In:
                                                                  2,185 mL
                                                                    432 mL
   PO:
                                                                    120 mL
             TF:
   IVF:
                                                                  2,065 mL
                                                                    432 mL
   Blood products:
   Total out:
                                                                    760 mL
                                                                    525 mL
   Urine:
                                                                    760 mL
                                                                    525 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,425 mL
                                                                    -93 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93%
   ABG: ///21/
   Physical Examination
   GENERAL: Pleasant, well appearing ..... in NAD
   HEENT: Normocephalic, surgical dressing in place.  No conjunctival
   pallor. No scleral icterus. PERRLA/EOMI. MMM. OP clear.  Neck Supple,
   No LAD, No thyromegaly.
   CARDIAC: Regular rhythm, normal rate. Normal S1, S2. No murmurs, rubs
   or [**Last Name (un) 2911**].
   LUNGS: CTAB, good air movement biaterally.
   ABDOMEN: NABS. Soft, NT, ND.  No HSM
   EXTREMITIES: No edema or calf pain, 2+ dorsalis pedis/ posterior tibial
   pulses.
   SKIN: No rashes/lesions, ecchymoses.
   NEURO: A&O to self. Appropriate. CN 2-12 grossly intact.
   Labs / Radiology
   93 K/uL
   9.2 g/dL
   299 mg/dL
   1.7 mg/dL
   21 mEq/L
   4.1 mEq/L
   21 mg/dL
   102 mEq/L
   136 mEq/L
   27.9 %
   8.0 K/uL
        [image002.jpg]
                             [**2185-8-10**]  06:14 AM
                             [**2185-8-11**]  04:23 AM
                             [**2185-8-12**]  04:02 AM
   WBC
   3.8
   4.3
   8.0
   Hct
   33.0
   31.9
   27.9
   Plt
   97
   95
   93
   Cr
   1.6
   1.7
   1.7
   Glucose
   159
   155
   299
   Other labs: PT / PTT / INR:12.2/21.7/1.0, Alk Phos / T Bili:/0.2,
   Differential-Neuts:46.0 %, Band:0.0 %, Lymph:20.0 %, Mono:24.0 %,
   Eos:9.0 %, Albumin:3.4 g/dL, LDH:269 IU/L, Ca++:8.5 mg/dL, Mg++:1.9
   mg/dL, PO4:2.1 mg/dL
   Assessment and Plan
 HYPERTENSION, MALIGNANT (HYPERTENSIVE CRISIS, HYPERTENSIVE EMERGENCY)
   ASSESSMENT AND PLAN:
   63-year-old male with DM-II, HTN, CAD, CKD, non-Hodgkin B-cell lymphoma
   s/p chemotherapy (no radiation therapy),  s/p kidney transplant (on
   Rapamune & Prednisone) who presents with worsening HTN urgency and 2
   weeks of throbbing headaches and found to have extensive bihemispheric
   white matter lesions on MRI (R temporal and L parieto-occipital), most
   likely representing progression of his NHBCL.
   .
   #Headaches: Likely due to multiple lesions noted on brain MRI rather
   than poorly controlled HTN.  Biopsy is concerning for tumor spread. LP
   CSF with 2WBC, 1RBC, 85 lymphocytes, 15 monos, elevated protein of 162,
   and normal glucose in the 70s which makes bacterial/fungal sources
   highly unlikely.
   .
   --f/up neurology recs
   --continue Tylenol PRN pain
   --f/u final results of brain biopsy
   --keep goal SBP < 140 per neurosurg recs, will switch from
   nitroprusside to labetalol drip given risk of cyanide toxicity with
   continued use of nitroprusside
   --Dexamethasone 4 mg IV Q6H, will hold prednisone for now but will need
   to restart once dexamethasone is dc
   .
   #HEME/Oncology: B-cell lymphoma diagnosed [**1-/2185**], patient is now s/p 6
   cycles of chemotherapy (R-[**Hospital1 **] x5, R-CHOP x1) and 2 cycles of IT ara-C
   with last dose given on [**2185-7-13**] per OMR. No radiation therapy. Patient
   had been on immunosuppression meds for many years for renal transplant
   which may have played role in malignancy risk. Followed here by Dr.
   [**Last Name (STitle) 6604**] & Dr. [**Last Name (STitle) 3337**]
   .
   --appreciate oncology input, will clarify recs regarding methotrexate
   and dialysis
   --steroids for intercranial edema
   .
   #Hypertension: In regards to his HTN, it appears his SBPs have been
   intermittently in the 170s over last month per OMR notes and his usual
   lisinopril and lasix have been discontinued for unclear reasons(likely
   related to his chemotherapies). Although not classical for PRES, given
   the possibility neurology team recommending goal SBP < 140 for tighter
   BP control. Of note, he also had borderline pulmonary artery systolic
   hypertension on [**5-/2185**] TTE.  Pt arrived from the ED on nitro gtt.
   .
   --switch from nitroprusside gtt to labetalol for control of BPs
   --continue usual clonidine, hold carvedilol for now while on drip, plan
   to restart on DC if indicated
   .
   #Renal transplant: His creatinine was 1.7 yesturday near usual baseline
   of 1.6-1.7 range. He is on sirolimus and prednisone for
   immunosuppression.
   .
   --appreciate renal transplant recs, will clarify use of CVVHD vs HD
   --IR consulted for eval for line placement
   --avoiding nephrotoxic medications
   --trend BUN/Cr
   --continue with Rapamune 2mg every other day
   --hold prednisone while on dexamethasone, will restart when
   dexamethasone course complete
   --follow  sirolimus level
   .
   # Diabetes mellitus II: Etiology of his renal failure per OMR. Usually
   on home Lantus with humalog sliding scale. Followed by [**Hospital 294**] Clinic.
   .
   --continue home lantus dose ( 22 U glargine), may need to increase in
   the context of steroid use
   --qid fingersticks with SSI coverage for now
   --continue diabetic/cardiac diet
   .
   # Coronary artery disease: status-post 3V CABG in [**2173**]. No chest pain,
   EKG with no ischemic changes. He remains asymptomatic currently in
   [**Hospital Unit Name 10**]. Aspirin on hold due to IT chemotherapy per OMR.
   .
   --repeat EKG
   --continue carvedilol
   --holding ASA, statin for now
   .
   #Phantom limb pain: continue tylenol as needed, recently stopped taking
   Vicodin.
   ICU Care
   Nutrition: NPO for now, may need line placement
   Glycemic Control:  lantus 22 Units and
   Lines:
   22 Gauge - [**2185-8-10**] 06:22 AM
   Prophylaxis:
   DVT: SCDs
   Stress ulcer: pantoprazole
   VAP:
   Comments:
   Communication:  Comments: [**First Name4 (NamePattern1) 7032**] [**Name (NI) 7033**] [**Name (NI) 2979**] #[**Telephone/Fax (1) 7034**]
   Code status: Full code
   Disposition:

2185-08-12 08:13:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 OR SENT - At [**2185-8-11**] 01:13 PM
   Allergies:
   Adhesive Tape (Topical)
   Rash;
   Last dose of Antibiotics:
   Acyclovir - [**2185-8-12**] 07:57 AM
   Bactrim (SMX/TMP) - [**2185-8-12**] 07:58 AM
   Infusions:
   Nitroprusside - 2.5 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2185-8-12**] 07:58 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2185-8-12**] 08:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.8
C (98.3
   HR: 102 (71 - 102) bpm
   BP: 163/55(89) {112/43(63) - 177/89(114)} mmHg
   RR: 14 (14 - 21) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
             Total In:
                                                                  2,185 mL
                                                                    698 mL
   PO:
                                                                    120 mL
             TF:
   IVF:
                                                                  2,065 mL
                                                                    578 mL
   Blood products:
   Total out:
                                                                    760 mL
                                                                    715 mL
   Urine:
                                                                    760 mL
                                                                    715 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,425 mL
                                                                    -17 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///21/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.2 g/dL
   93 K/uL
   299 mg/dL
   1.7 mg/dL
   21 mEq/L
   4.1 mEq/L
   21 mg/dL
   102 mEq/L
   136 mEq/L
   27.9 %
   8.0 K/uL
        [image002.jpg]
                             [**2185-8-10**]  06:14 AM
                             [**2185-8-11**]  04:23 AM
                             [**2185-8-12**]  04:02 AM
   WBC
   3.8
   4.3
   8.0
   Hct
   33.0
   31.9
   27.9
   Plt
   97
   95
   93
   Cr
   1.6
   1.7
   1.7
   Glucose
   159
   155
   299
   Other labs: PT / PTT / INR:12.2/21.7/1.0, Alk Phos / T Bili:/0.2,
   Differential-Neuts:46.0 %, Band:0.0 %, Lymph:20.0 %, Mono:24.0 %,
   Eos:9.0 %, Albumin:3.4 g/dL, LDH:269 IU/L, Ca++:8.5 mg/dL, Mg++:1.9
   mg/dL, PO4:2.1 mg/dL
   Assessment and Plan
   HYPERTENSION -- underlying HTN disease.  Improved control.  Now on
   clonidine alone, will add b-blocker.
   HEADACHE -- attributed predominately to hypertension.  Opening pressure
   elevated.  Concern raised for intracranial abnormalities (based on MRI
   new white matter lesions) -- possible lymphoma.  No evidence for
   meningitits or encephalitis by CSF analysis.
   CNS ABNORMALITIES -- predominately white matter abnormality, bilateral
   by asymetri (ex. right frontal and left posterior).  Neurology and
   Neurooncology services following.  Awaiting further CSF testing
   results.  Recommendation for further imaging
 head MRI and head CT.
   For Biopsy today.
   VENTRICULAR ECTOPY --  non-malignant.  Consider resuming b-blocker for
   improved control.
   NIDDM -- continue usual insulin.  Monitor glucose.  Maitain <150.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2185-8-11**] 11:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent:

2185-08-13 07:30:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 DIALYSIS CATHETER - START [**2185-8-12**] 03:54 PM
 EKG - At [**2185-8-12**] 10:00 PM
   - R IJ Dialysis placed for CVVHD
   - CVVHD started, replacement fluid changed to B32K2
   - Pt with new cough, chills
 Cx, CXR
   - CVVHD clotted off at 0630
   Allergies:
   Adhesive Tape (Topical)
   Rash;
   Last dose of Antibiotics:
   Acyclovir - [**2185-8-12**] 07:57 AM
   Bactrim (SMX/TMP) - [**2185-8-12**] 07:58 AM
   Infusions:
   Labetalol - 0.5 mg/min
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   KCl (CRRT) - 2 mEq./hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2185-8-12**] 07:58 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2185-8-13**] 06:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.2
C (97.1
   HR: 89 (77 - 103) bpm
   BP: 112/46(71) {72/45(60) - 172/65(102)} mmHg
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
             Total In:
                                                                  2,207 mL
                                                                  2,843 mL
   PO:
                                                                    120 mL
                                                                    270 mL
   TF:
   IVF:
                                                                  1,967 mL
                                                                  2,573 mL
   Blood products:
   Total out:
                                                                  2,160 mL
                                                                  1,233 mL
   Urine:
                                                                  1,350 mL
                                                                    401 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     47 mL
                                                                  1,610 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 94%
   ABG: 7.46/36/103/24/1
   Physical Examination
   General: Pt lying in bed, shivering, awake, pleasant, NC in place
   HEENT: MMM, PERLL, oropharynx clear, biopsy site on crown of head
   sutured
 clean, no signs of infection.  Right IJ dialysis catheter in
   place with no sign of infection.
   CV: regular rate, irregular. Si and S2. Distant heart sounds.
   Lungs: clear to auscultation bilaterally, no wheezing
   Abd: soft, NT, ND, +BS
   Ext: pulses palpable and equal in bilateral lower and upper
   extremities.  Skin warm to touch.
   Neuro: CN II-XII grossly intact. Alert, oriented x 3
   Labs / Radiology
   70 K/uL
   8.7 g/dL
   358 mg/dL
   1.2 mg/dL
   24 mEq/L
   3.8 mEq/L
   15 mg/dL
   99 mEq/L
   137 mEq/L
   27.0 %
   14.6 K/uL
        [image002.jpg]
                             [**2185-8-10**]  06:14 AM
                             [**2185-8-11**]  04:23 AM
                             [**2185-8-12**]  04:02 AM
                             [**2185-8-12**]  04:47 PM
                             [**2185-8-12**]  05:01 PM
                             [**2185-8-12**]  09:34 PM
                             [**2185-8-13**]  03:04 AM
                             [**2185-8-13**]  04:54 AM
                             [**2185-8-13**]  05:25 AM
   WBC
   3.8
   4.3
   8.0
   14.6
   Hct
   33.0
   31.9
   27.9
   27.0
   Plt
   97
   95
   93
   70
   Cr
   1.6
   1.7
   1.7
   2.0
   1.6
   1.2
   TCO2
   25
   27
   26
   Glucose
   159
   155
   299
   227
   192
   358
   Other labs: PT / PTT / INR:11.8/23.1/1.0, ALT / AST:[**12-24**], Alk Phos / T
   Bili:65/0.2, Differential-Neuts:46.0 %, Band:0.0 %, Lymph:20.0 %,
   Mono:24.0 %, Eos:9.0 %, Albumin:3.3 g/dL, LDH:221 IU/L, Ca++:7.9 mg/dL,
   Mg++:2.0 mg/dL, PO4:1.8 mg/dL, Uric Acid 2.5
   Urine: SG 1.004  pH 6.5  Prot Tr  Glu 1000
   Micro: BCx pending
   Rads: CXR with prominent pulmonary vasculature, no effusions
   Assessment and Plan
 H/O HEADACHE
 H/O LYMPHOMA (CANCER, MALIGNANT NEOPLASM, LYMPHOID)
 HYPERTENSION, MALIGNANT (HYPERTENSIVE CRISIS, HYPERTENSIVE EMERGENCY)
   63-year-old male with DM-II, HTN, CAD, CKD, non-Hodgkin B-cell lymphoma
   s/p chemotherapy (no radiation therapy),  s/p kidney transplant (on
   Rapamune & Prednisone) who presents with worsening HTN urgency and 2
   weeks of throbbing headaches and found to have extensive bihemispheric
   white matter lesions on MRI (R temporal and L parieto-occipital), most
   likely representing progression of his NHBCL now s/p bx on CVVHD to
   initiate chemotherapy.
   #Headaches: Likely due to multiple lesions noted on brain MRI rather
   than poorly controlled HTN.  Biopsy is concerning for tumor spread. LP
   CSF with 2WBC, 1RBC, 85 lymphocytes, 15 monos, elevated protein of 162,
   glucose in the 70s.
   --f/up neurology recs
   --continue Tylenol PRN pain
   --f/u final results of brain biopsy
   --keep goal 130<SBP<160  per neurosurg recs\
   --Consider discontinuing Labetolol drip and transition to Po meds
   --Continue Dexamethasone 4 mg IV Q6H, continue to hold prednisone
   discuss with NeuroOnc on course for Dexa.
   #HEME/Oncology: B-cell lymphoma diagnosed [**1-/2185**], patient is now s/p 6
   cycles of chemotherapy (R-[**Hospital1 **] x5, R-CHOP x1) and 2 cycles of IT ara-C
   with last dose given on [**2185-7-13**] per OMR. No radiation therapy. Patient
   had been on immunosuppression meds for many years for renal transplant
   which may have played role in malignancy risk. Followed here by Dr.
   [**Last Name (STitle) 6604**] & Dr. [**Last Name (STitle) 3337**]
   [**Name (STitle) 7093**] to start methotrexate once urine alkalization completed using
   CVVHD (now clotted off)
   --Will consult with oncology due to difficulties in getting urine pH
   7.5
   --continue Dexamethasone 4 mg IV q 6 hour steroids for intercranial
   edema, f/u c neuro/onc
   --discuss heparin SC tid for DVT prophylaxis
   #Hypertension: In regards to his HTN, it appears his SBPs have been
   intermittently in the 170s over last month per OMR notes and his usual
   lisinopril and lasix have been discontinued for unclear reasons(likely
   related to his chemotherapies). Although not classical for PRES, given
   the possibility neurology team recommending goal SBP < 140 for tighter
   BP control. Of note, he also had borderline pulmonary artery systolic
   hypertension on [**5-/2185**] TTE.  Pt arrived from the ED on nitro gtt.
   --consider changing labetolol gtt to PO equivalent with 130<SBP<160 per
   neurosurgery recs.
   --continue usual clonidine, hold carvedilol for now while on drip, plan
   to restart on DC if indicated
   #Renal transplant: On CVVHD. His creatinine was 1.7 yesturday near
   usual baseline of 1.6-1.7 range. He is on sirolimus and prednisone for
   immunosuppression. On CVVHD, 1.6L positive in past 6 hours, now with
   new cough concerning for pulmonary edema [**3-14**] fluid overload.
   --10mg lasix IV x 1
   --Will continue with CVVHD, however will discuss with renal re:
   troubleshooting clotting
   --q2hour chem 10, ABG
 discuss with renal re: possibly spacing out
   labs.
   --avoiding nephrotoxic medications
   --trend BUN/Cr
   --continue with Rapamune 2mg every other day
   --hold prednisone while on dexamethasone, will restart when
   dexamethasone course complete
   --follow  sirolimus level
   # Diabetes mellitus II: Etiology of his renal failure per OMR. Usually
   on home Lantus with humalog sliding scale. Followed by [**Hospital 294**] Clinic.
   --calculate new lantus dose based on 24 hour insulin usage ( 22 U
   glargine)
   --change accuchecks to q6h with sliding scale regular insulin
   increase by 2 units per increment.
   --continue diabetic/cardiac diet
   # Coronary artery disease: status-post 3V CABG in [**2173**]. No chest pain,
   EKG with no ischemic changes. He remains asymptomatic currently in
   [**Hospital Unit Name 10**]. Aspirin on hold due to IT chemotherapy per OMR.
   --hold carvedilol while on labetolol gtt
   --holding ASA, statin for now
   #Phantom limb pain: continue tylenol as needed, recently stopped taking
   Vicodin.
   ICU Care
   Nutrition: Regular
 Diabetic/Cardiac.  Small snacks due to
   chemotherapy today
   Glycemic Control:  glargine + insulin SS
   Lines:
   Arterial Line - [**2185-8-11**] 09:07 PM
   22 Gauge - [**2185-8-11**] 11:30 PM
   Dialysis Catheter - [**2185-8-12**] 03:54 PM
   Prophylaxis:
   DVT:  SCDs
 discuss with onc re: heparin SC tid
   Stress ulcer: pantoprazole
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:  CVVHD/Chemo
   ------ Protected Section ------
   Addendum for Hem/Onc plan:
   -24 hours after start of Methotrexate infustion, start Leucovorin 25 mg
   IV q6h
   -Lysis labs q6h after start of methotrexate
   -Methotrexate levels at 24h, 48h, 72h, and 96h
   ------ Protected Section Addendum Entered By:[**Name (NI) 2021**] [**Last Name (NamePattern1) 2355**], MD
   on:[**2185-8-13**] 10:38 ------

2185-08-13 08:06:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 RIJ DIALYSIS CATHETER - START [**2185-8-12**] 03:54 PM
 EKG - At [**2185-8-12**] 10:00 PM
   freq vent trigemeny
   CVVHD started with bicarb gtt to alkalinize urine
 goal pH > 7.0
   CVVHD clotted this AM
   New chills while on RRT
   Allergies:
   Adhesive Tape (Topical)
   Rash;
   Last dose of Antibiotics:
   Acyclovir - [**2185-8-12**] 07:57 AM
   Bactrim (SMX/TMP) - [**2185-8-12**] 07:58 AM
   Infusions:
   Labetalol - 0.5 mg/min
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2185-8-13**] 08:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.2
C (97.1
   HR: 89 (77 - 103) bpm
   BP: 112/46(71) {72/45(60) - 172/65(102)} mmHg
   SpO2: 94% 2LPM
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
             Total In:
                                                                  2,207 mL
                                                                  2,988 mL
   PO:
                                                                    120 mL
                                                                    270 mL
   TF:
   IVF:
                                                                  1,967 mL
                                                                  2,718 mL
   Blood products:
   Total out:
                                                                  2,160 mL
                                                                  1,381 mL
   Urine:
                                                                  1,350 mL
                                                                    401 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     47 mL
                                                                  1,607 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 94%
   ABG: 7.46/36/103/24/1
   Physical Examination
   Awake, alert, no distress
   Head wound dressed
   Neck supple
   Hrt rrr
   Lungs clear
   Abd benign
   Extreme trace edema
   Labs / Radiology
   8.7 g/dL
   70 K/uL
   358 mg/dL
   1.2 mg/dL
   24 mEq/L
   3.8 mEq/L
   15 mg/dL
   99 mEq/L
   137 mEq/L
   27.0 %
   14.6 K/uL
        [image002.jpg]
                             [**2185-8-10**]  06:14 AM
                             [**2185-8-11**]  04:23 AM
                             [**2185-8-12**]  04:02 AM
                             [**2185-8-12**]  04:47 PM
                             [**2185-8-12**]  05:01 PM
                             [**2185-8-12**]  09:34 PM
                             [**2185-8-13**]  03:04 AM
                             [**2185-8-13**]  04:54 AM
                             [**2185-8-13**]  05:25 AM
   WBC
   3.8
   4.3
   8.0
   14.6
   Hct
   33.0
   31.9
   27.9
   27.0
   Plt
   97
   95
   93
   70
   Cr
   1.6
   1.7
   1.7
   2.0
   1.6
   1.2
   TCO2
   25
   27
   26
   Glucose
   159
   155
   299
   227
   192
   358
   Other labs: PT / PTT / INR:11.8/23.1/1.0, ALT / AST:[**12-24**], Alk Phos / T
   Bili:65/0.2, Differential-Neuts:46.0 %, Band:0.0 %, Lymph:20.0 %,
   Mono:24.0 %, Eos:9.0 %, Albumin:3.3 g/dL, LDH:221 IU/L, Ca++:7.9 mg/dL,
   Mg++:2.0 mg/dL, PO4:1.8 mg/dL
   Assessment and Plan
   HYPERTENSION
 improved, wean labetolol gtt and convert to PO
   CNS lymphoma
 frozen sections compatible with lymphoma, BP control as
   above, on dexamethasone
 discuss taper with neuro onc, chemo to be
   started today once urine alkalinized
   Renal transplant
 receiving CVVHD to avoid MTX renal toxicity, cont
   sirolimus, dexamethasone
   Thrombocytopenia
 follow for now
   NIDDM -- continue usual insulin.  Monitor glucose.  Maintain <150
   ICU Care
   Nutrition: advance diet
   Glycemic Control:
   Lines:
   Arterial Line - [**2185-8-11**] 09:07 PM
   22 Gauge - [**2185-8-11**] 11:30 PM
   Dialysis Catheter - [**2185-8-12**] 03:54 PM
   Prophylaxis:
   DVT: boots
   Stress ulcer:  ppi
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :  ICU while on CVVHD
   Total time spent:  35

2185-08-14 05:43:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   [**8-13**]
   - initiate MTX chemotherapy, check level in the morning
   - ABG, urine pH, chem 10 q. 4 hrs to ensure alkalinization of urine
   - tumor lysis labs [**Hospital1 **]
   -on labetolol drip for control of HTN (increase in SBP with MTX)
   -as per neurosurgery, patient has been placed on heparin sc BID for DVT
   prophylaxis
   - repeatedly clotting off CVVHD
   Allergies:
   Adhesive Tape (Topical)
   Rash;
   Last dose of Antibiotics:
   Bactrim (SMX/TMP) - [**2185-8-12**] 07:58 AM
   Acyclovir - [**2185-8-13**] 09:00 AM
   Infusions:
   Calcium Gluconate (CRRT) - 2 grams/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2185-8-13**] 07:18 AM
   Pantoprazole (Protonix) - [**2185-8-13**] 09:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2185-8-14**] 05:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.4
C (97.5
   HR: 86 (75 - 89) bpm
   BP: 143/53(84) {112/46(71) - 182/74(113)} mmHg
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
             Total In:
                                                                  8,902 mL
                                                                  1,236 mL
   PO:
                                                                    670 mL
                                                                    320 mL
   TF:
   IVF:
                                                                  8,232 mL
                                                                    916 mL
   Blood products:
   Total out:
                                                                  7,383 mL
                                                                  1,636 mL
   Urine:
                                                                  2,431 mL
                                                                    500 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,519 mL
                                                                   -400 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: 7.46/41/141/26/5
   Physical Examination
   GENERAL: Pleasant, well appearing ..... in NAD
   HEENT: Normocephalic, atraumatic.  No conjunctival pallor. No scleral
   icterus. PERRLA/EOMI. MMM. OP clear.  Neck Supple, No LAD, No
   thyromegaly.
   CARDIAC: Regular rhythm, normal rate. Normal S1, S2. No murmurs, rubs
   or [**Last Name (un) 2911**].  JVP=
   LUNGS: CTAB, good air movement biaterally.
   ABDOMEN: NABS. Soft, NT, ND.  No HSM
   EXTREMITIES: No edema or calf pain, 2+ dorsalis pedis/ posterior tibial
   pulses.
   SKIN: No rashes/lesions, ecchymoses.
   NEURO: A&Ox3. Appropriate. CN 2-12 grossly intact. Preserved sensation
   throughout. 5/5 strength throughout. [**2-11**]+ reflexes, equal BL. Normal
   coordination. Gait assessment deferred
   PSYCH: Listens and responds to questions appropriately, pleasant
   Labs / Radiology
   63 K/uL
   9.1 g/dL
   157 mg/dL
   1.0 mg/dL
   26 mEq/L
   3.8 mEq/L
   7 mg/dL
   98 mEq/L
   136 mEq/L
   28.4 %
   17.2 K/uL
        [image002.jpg]
                             [**2185-8-13**]  11:00 AM
                             [**2185-8-13**]  11:13 AM
                             [**2185-8-13**]  01:55 PM
                             [**2185-8-13**]  02:10 PM
                             [**2185-8-13**]  04:56 PM
                             [**2185-8-13**]  05:15 PM
                             [**2185-8-13**]  09:01 PM
                             [**2185-8-13**]  09:25 PM
                             [**2185-8-14**]  01:12 AM
                             [**2185-8-14**]  01:16 AM
   WBC
   15.1
   16.2
   17.2
   Hct
   27.0
   28.0
   28.4
   Plt
   60
   66
   63
   Cr
   1.2
   1.1
   1.0
   1.0
   1.0
   TCO2
   31
   28
   27
   31
   30
   Glucose
   [**Telephone/Fax (3) 7108**]38
   157
   Other labs: PT / PTT / INR:11.8/23.7/1.0, ALT / AST:19/29, Alk Phos / T
   Bili:72/0.3, Differential-Neuts:87.8 %, Band:0.0 %, Lymph:4.2 %,
   Mono:7.8 %, Eos:0.1 %, Albumin:3.3 g/dL, LDH:294 IU/L, Ca++:8.3 mg/dL,
   Mg++:1.8 mg/dL, PO4:2.0 mg/dL
   Assessment and Plan
 .H/O HEADACHE
 .H/O LYMPHOMA (CANCER, MALIGNANT NEOPLASM, LYMPHOID)
 HYPERTENSION, MALIGNANT (HYPERTENSIVE CRISIS, HYPERTENSIVE EMERGENCY)
   63-year-old male with DM-II, HTN, CAD, CKD, non-Hodgkin B-cell lymphoma
   s/p chemotherapy (no radiation therapy),  s/p kidney transplant (on
   Rapamune & Prednisone) who presents with worsening HTN urgency and 2
   weeks of throbbing headaches and found to have extensive bihemispheric
   white matter lesions on MRI (R temporal and L parieto-occipital), most
   likely representing progression of his NHBCL now s/p bx on CVVHD to
   initiate chemotherapy.
   #Headaches: Likely due to multiple lesions noted on brain MRI rather
   than poorly controlled HTN.  Biopsy is concerning for tumor spread. LP
   CSF with 2WBC, 1RBC, 85 lymphocytes, 15 monos, elevated protein of 162,
   glucose in the 70s.
   --f/up neurology recs
   --continue Tylenol PRN pain
   --f/u final results of brain biopsy
   --keep goal 130<SBP<160  per neurosurg recs\
   --Consider discontinuing Labetolol drip and transition to Po meds
   --Continue Dexamethasone 4 mg IV Q6H, continue to hold prednisone
   discuss with NeuroOnc on course for Dexa.
   #HEME/Oncology: B-cell lymphoma diagnosed [**1-/2185**], patient is now s/p 6
   cycles of chemotherapy (R-[**Hospital1 **] x5, R-CHOP x1) and 2 cycles of IT ara-C
   with last dose given on [**2185-7-13**] per OMR. No radiation therapy. Patient
   had been on immunosuppression meds for many years for renal transplant
   which may have played role in malignancy risk. Followed here by Dr.
   [**Last Name (STitle) 6604**] & Dr. [**Last Name (STitle) 3337**]
   [**Name (STitle) 7093**] to start methotrexate once urine alkalization completed using
   CVVHD (now clotted off)
   --Will consult with oncology due to difficulties in getting urine pH
   7.5
   --continue Dexamethasone 4 mg IV q 6 hour steroids for intercranial
   edema, f/u c neuro/onc
   --discuss heparin SC tid for DVT prophylaxis
   #Hypertension: In regards to his HTN, it appears his SBPs have been
   intermittently in the 170s over last month per OMR notes and his usual
   lisinopril and lasix have been discontinued for unclear reasons(likely
   related to his chemotherapies). Although not classical for PRES, given
   the possibility neurology team recommending goal SBP < 140 for tighter
   BP control. Of note, he also had borderline pulmonary artery systolic
   hypertension on [**5-/2185**] TTE.  Pt arrived from the ED on nitro gtt.
   --consider changing labetolol gtt to PO equivalent with 130<SBP<160 per
   neurosurgery recs.
   --continue usual clonidine, hold carvedilol for now while on drip, plan
   to restart on DC if indicated
   #Renal transplant: On CVVHD. His creatinine was 1.7 yesturday near
   usual baseline of 1.6-1.7 range. He is on sirolimus and prednisone for
   immunosuppression. On CVVHD, 1.6L positive in past 6 hours, now with
   new cough concerning for pulmonary edema [**3-14**] fluid overload.
   --10mg lasix IV x 1
   --Will continue with CVVHD, however will discuss with renal re:
   troubleshooting clotting
   --q2hour chem 10, ABG
 discuss with renal re: possibly spacing out
   labs.
   --avoiding nephrotoxic medications
   --trend BUN/Cr
   --continue with Rapamune 2mg every other day
   --hold prednisone while on dexamethasone, will restart when
   dexamethasone course complete
   --follow  sirolimus level
   # Diabetes mellitus II: Etiology of his renal failure per OMR. Usually
   on home Lantus with humalog sliding scale. Followed by [**Hospital 294**] Clinic.
   --calculate new lantus dose based on 24 hour insulin usage ( 22 U
   glargine)
   --change accuchecks to q6h with sliding scale regular insulin
   increase by 2 units per increment.
   --continue diabetic/cardiac diet
   # Coronary artery disease: status-post 3V CABG in [**2173**]. No chest pain,
   EKG with no ischemic changes. He remains asymptomatic currently in
   [**Hospital Unit Name 10**]. Aspirin on hold due to IT chemotherapy per OMR.
   --hold carvedilol while on labetolol gtt
   --holding ASA, statin for now
   #Phantom limb pain: continue tylenol as needed, recently stopped taking
   Vicodin.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2185-8-11**] 09:07 PM
   Dialysis Catheter - [**2185-8-12**] 03:54 PM
   22 Gauge - [**2185-8-13**] 10:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2185-08-14 07:57:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Allergies:
   Adhesive Tape (Topical)
   Rash;
   Last dose of Antibiotics:
   Bactrim (SMX/TMP) - [**2185-8-12**] 07:58 AM
   Acyclovir - [**2185-8-13**] 09:00 AM
   Infusions:
   Calcium Gluconate (CRRT) - 1.2 grams/hour
   KCl (CRRT) - 2 mEq./hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2185-8-13**] 09:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2185-8-14**] 07:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.6
C (97.8
   HR: 80 (75 - 89) bpm
   BP: 175/69(107) {132/46(73) - 182/74(113)} mmHg
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
             Total In:
                                                                  8,902 mL
                                                                  2,038 mL
   PO:
                                                                    670 mL
                                                                    320 mL
   TF:
   IVF:
                                                                  8,232 mL
                                                                  1,718 mL
   Blood products:
   Total out:
                                                                  7,383 mL
                                                                  2,270 mL
   Urine:
                                                                  2,431 mL
                                                                    700 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,519 mL
                                                                   -230 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: 7.48/37/141/26/4
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.7 g/dL
   64 K/uL
   194 mg/dL
   0.9 mg/dL
   26 mEq/L
   4.0 mEq/L
   6 mg/dL
   97 mEq/L
   135 mEq/L
   26.9 %
   15.6 K/uL
        [image002.jpg]
                             [**2185-8-13**]  01:55 PM
                             [**2185-8-13**]  02:10 PM
                             [**2185-8-13**]  04:56 PM
                             [**2185-8-13**]  05:15 PM
                             [**2185-8-13**]  09:01 PM
                             [**2185-8-13**]  09:25 PM
                             [**2185-8-14**]  01:12 AM
                             [**2185-8-14**]  01:16 AM
                             [**2185-8-14**]  05:29 AM
                             [**2185-8-14**]  05:45 AM
   WBC
   15.1
   16.2
   17.2
   15.6
   Hct
   27.0
   28.0
   28.4
   26.9
   Plt
   60
   66
   63
   64
   Cr
   1.1
   1.0
   1.0
   1.0
   0.9
   TCO2
   28
   27
   31
   30
   28
   Glucose
   257
   160
   138
   157
   194
   Other labs: PT / PTT / INR:11.8/23.7/1.0, ALT / AST:19/29, Alk Phos / T
   Bili:72/0.3, Differential-Neuts:87.8 %, Band:0.0 %, Lymph:4.2 %,
   Mono:7.8 %, Eos:0.1 %, Albumin:3.3 g/dL, LDH:271 IU/L, Ca++:8.3 mg/dL,
   Mg++:1.7 mg/dL, PO4:2.2 mg/dL
   Assessment and Plan
   HYPERTENSION
 improved, wean labetolol gtt and convert to PO
   CNS lymphoma
 frozen sections compatible with lymphoma, BP control as
   above, on dexamethasone
 discuss taper with neuro onc, chemo to be
   started today once urine alkalinized
   Renal transplant
 receiving CVVHD to avoid MTX renal toxicity, cont
   sirolimus, dexamethasone
   Thrombocytopenia
 follow for now
   NIDDM -- continue usual insulin.  Monitor glucose.  Maintain <150
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2185-8-11**] 09:07 PM
   Dialysis Catheter - [**2185-8-12**] 03:54 PM
   22 Gauge - [**2185-8-13**] 10:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent:

2185-08-15 06:41:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Htn, CVVHD in context of chemotherapy
   24 Hour Events:
   - renal recommends continuing bicarb goals until the end of CRRT on
   [**8-15**], recommends trying to keep him fluid neutral
   -hypertensive, increased clonidine to 0.2 TID, labetalol gtt initiated
   but dc
d this AM
   - sirolimus level pending
   -continue checking q 24 hr methotrexate levels and continue CVVHD until
   levels <0.05, recent level 5.7
   -pt missed 6 PM dose of leucovorin, BMT recs giving add'l 25 leukovorin
   now, then increasing 6 AM and 12 noon doses to 40.
   Allergies:
   Adhesive Tape (Topical)
   Rash;
   Last dose of Antibiotics:
   Bactrim (SMX/TMP) - [**2185-8-12**] 07:58 AM
   Acyclovir - [**2185-8-13**] 09:00 AM
   Infusions:
   Calcium Gluconate (CRRT) - 1.2 grams/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2185-8-15**] 06:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.4
C (97.5
   HR: 71 (69 - 86) bpm
   BP: 174/63(104) {133/56(92) - 191/158(160)} mmHg
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
             Total In:
                                                                  5,511 mL
                                                                  2,019 mL
   PO:
                                                                    980 mL
             TF:
   IVF:
                                                                  4,531 mL
                                                                  2,019 mL
   Blood products:
   Total out:
                                                                  6,160 mL
                                                                  2,114 mL
   Urine:
                                                                  3,155 mL
                                                                  1,565 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -649 mL
                                                                    -95 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: 7.47/43/142/28/7
   Physical Examination
   GENERAL: Pleasant, well appearing ..... in NAD
   HEENT: Normocephalic, atraumatic.  No conjunctival pallor. No scleral
   icterus. PERRLA/EOMI. MMM. OP clear.  Neck Supple, No LAD, No
   thyromegaly.
   CARDIAC: Regular rhythm, normal rate. Normal S1, S2. No murmurs, rubs
   or [**Last Name (un) 2911**].  JVP=
   LUNGS: CTAB, good air movement biaterally.
   ABDOMEN: NABS. Soft, NT, ND.  No HSM
   EXTREMITIES: No edema or calf pain, 2+ dorsalis pedis/ posterior tibial
   pulses.
   SKIN: No rashes/lesions, ecchymoses.
   NEURO: A&Ox3. Appropriate. CN 2-12 grossly intact. Preserved sensation
   throughout. 5/5 strength throughout. [**2-11**]+ reflexes, equal BL. Normal
   coordination. Gait assessment deferred
   PSYCH: Listens and responds to questions appropriately, pleasant
   Labs / Radiology
   54 K/uL
   8.1 g/dL
   60 mg/dL
   0.8 mg/dL
   28 mEq/L
   3.3 mEq/L
   5 mg/dL
   107 mEq/L
   143 mEq/L
   24.5 %
   11.0 K/uL
        [image002.jpg]
                             [**2185-8-14**]  01:16 AM
                             [**2185-8-14**]  05:29 AM
                             [**2185-8-14**]  05:45 AM
                             [**2185-8-14**]  10:05 AM
                             [**2185-8-14**]  10:41 AM
                             [**2185-8-14**]  04:18 PM
                             [**2185-8-14**]  04:30 PM
                             [**2185-8-15**]  01:06 AM
                             [**2185-8-15**]  01:13 AM
                             [**2185-8-15**]  04:54 AM
   WBC
   15.6
   14.7
   11.0
   Hct
   26.9
   25.1
   24.5
   Plt
   64
   67
   54
   Cr
   0.9
   0.9
   0.8
   0.9
   0.8
   TCO2
   30
   28
   30
   35
   32
   Glucose
   194
   138
   151
   107
   60
   Other labs: PT / PTT / INR:11.8/23.7/1.0, ALT / AST:22/20, Alk Phos / T
   Bili:64/0.4, Differential-Neuts:90.9 %, Band:0.0 %, Lymph:3.9 %,
   Mono:5.1 %, Eos:0.2 %, Albumin:3.3 g/dL, LDH:238 IU/L, Ca++:7.1 mg/dL,
   Mg++:1.7 mg/dL, PO4:1.9 mg/dL
   Assessment and Plan
 .H/O HEADACHE
 .H/O LYMPHOMA (CANCER, MALIGNANT NEOPLASM, LYMPHOID)
 HYPERTENSION, MALIGNANT (HYPERTENSIVE CRISIS, HYPERTENSIVE EMERGENCY)
   63-year-old male with DM-II, HTN, CAD, CKD, non-Hodgkin B-cell lymphoma
   s/p chemotherapy (no radiation therapy), s/p kidney transplant (on
   Rapamune & Prednisone) who presents with worsening HTN urgency and 2
   weeks of throbbing headaches and found to have extensive bihemispheric
   white matter lesions on MRI (R temporal and L parieto-occipital), most
   likely representing progression of his NHBCL now s/p bx on CVVHD to
   initiate chemotherapy.
   #Headaches: Likely due to multiple lesions noted on brain MRI rather
   than poorly controlled HTN.  Biopsy is concerning for tumor spread. LP
   CSF with 2WBC, 1RBC, 85 lymphocytes, 15 monos, elevated protein of 162,
   glucose in the 70s.
   --appreciate neurology/neurosurg recs
   --will discuss re-starting aspirin with neurosurg
   --continue Tylenol PRN pain
   --f/u final results of brain biopsy
   #HEME/Oncology: B-cell lymphoma diagnosed [**1-/2185**], patient is now s/p 6
   cycles of chemotherapy (R-[**Hospital1 **] x5, R-CHOP x1) and 2 cycles of IT ara-C
   with last dose given on [**2185-7-13**] per OMR. No radiation therapy. Patient
   had been on immunosuppression meds for many years for renal transplant
   which may have played role in malignancy risk. Followed here by Dr.
   [**Last Name (STitle) 6604**] & Dr. [**Last Name (STitle) 3337**]
   -- s/p methotrexate, continue to monitor urine pH (goal pH < 7.5)
   --d/ced dexamethasone, prednisone restarted
   --sirolimus level pending
   --check methotrexate q 24 hrs
   --q 4 urine pH, adjust bicarb as indicated
   -- f/u with renal transplant and BMT service regarding length of CVVHD
   #Hypertension: In regards to his HTN, it appears his SBPs have been
   intermittently in the 170s over last month per OMR notes.  His usual
   lisinopril and lasix have been discontinued for unclear reasons (likely
   related to his chemotherapies). Of note, he also had borderline
   pulmonary artery systolic hypertension on [**5-/2185**] TTE.  Pt arrived from
   the ED on nitro gtt.
   --keep goal 130<SBP<160  per neurosurg recs
   --continue po labatelol and clonidine; off of labetolol gtt, will add
   hydralizine if BPs are not controlled, avoid gtt if possible
   #Renal transplant: On CVVHD for dialysis of methotrexate. His
   creatinine nl, good UOP. He is on sirolimus and prednisone for
   immunosuppression. Goal is fluid neutral per renal recs.  Unfortunately
   CVVHD has repeatedly clotted off.
   --Will continue with CVVHD, discuss with renal/BMT optimal length of
   treatment and possibility of switching to HD
   --switched from q4 to q 12 hr labs today, will confirm with renal
   --avoiding nephrotoxic medications
   --trend BUN/Cr
   --continue with Rapamune 2mg every other day
   --sirolumus level pending
   # Diabetes mellitus II: Etiology of his renal failure per OMR. Usually
   on home Lantus with humalog sliding scale. Followed by [**Hospital 294**] Clinic.
   --minimal insulin requirements o/n, will follow
   --change accuchecks to q6h with sliding scale regular insulin
   increase by 2 units per increment.
   --continue diabetic/cardiac diet
   # Coronary artery disease: status-post 3V CABG in [**2173**]. No chest pain,
   EKG with no ischemic changes. He remains asymptomatic currently in
   [**Hospital Unit Name 10**]. Aspirin on hold due to IT chemotherapy per OMR.
   --continue PO labetalol, clonidine, add hydralizine if pressures remain
   poorly controled
   --holding ASA, statin for now.  Will discuss restarting ASA with
   neurosurg
   #Phantom limb pain: continue tylenol as needed, recently stopped taking
   Vicodin.
   ICU Care
   Nutrition: diabetic/ renal diet
   Glycemic Control:  HSSI
   Lines:
   Arterial Line - [**2185-8-11**] 09:07 PM
   Dialysis Catheter - [**2185-8-12**] 03:54 PM
   22 Gauge - [**2185-8-13**] 10:00 PM
   Prophylaxis:
   DVT: sc heparin (watch as platlets dropping)
   Stress ulcer: [**Last Name (LF) 7134**], [**First Name3 (LF) 116**] discuss switching to famotidine with
   BMT/renal
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   Note, pt missed dose of leucovorin last night.  Per BMT recs, will
   increase 6AM and noon doses of leucovorin to 40.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name8 (MD) 3099**], MD
   on:[**2185-8-15**] 11:04 ------

2185-08-16 07:10:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Headaches, HTN, chemotherapy for non-Hodgkin B-cell
   lymphoma
   24 Hour Events:
   -clotted CVVHD, switched to citrate-based fluid, plan to dialyze until
   methotrexate <0.05
   -hypotensive, responsive to fluid bolus
   -pt c/o neck pain o/n
   Allergies:
   Adhesive Tape (Topical)
   Rash;
   Last dose of Antibiotics:
   Acyclovir - [**2185-8-13**] 09:00 AM
   Infusions:
   Calcium Gluconate (CRRT) - 1.8 grams/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2185-8-16**] 07:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.7
   Tcurrent: 37.2
C (99
   HR: 82 (66 - 88) bpm
   BP: 134/50(76) {96/38(60) - 195/77(115)} mmHg
   RR: 12 (12 - 26) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
             Total In:
                                                                  5,658 mL
                                                                  2,818 mL
   PO:
                                                                    650 mL
             TF:
   IVF:
                                                                  5,008 mL
                                                                  2,818 mL
   Blood products:
   Total out:
                                                                  5,113 mL
                                                                  1,295 mL
   Urine:
                                                                  3,175 mL
                                                                    420 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    545 mL
                                                                  1,523 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: 7.45/43/81.[**Numeric Identifier 8**]/26/4
   Physical Examination
   GENERAL: Pleasant, well appearing
   HEENT: Normocephalic, atraumatic.  No conjunctival pallor. No scleral
   icterus. PERRLA/EOMI. MMM. OP clear.  Neck painful to palpation
   posteriorly along the paraspinous muscles.  No nuchal rigidity
   CARDIAC: Regular rhythm, normal rate. Normal S1, S2. No murmurs, rubs
   or [**Last Name (un) 2911**].
   LUNGS: CTAB, good air movement biaterally.
   ABDOMEN: NABS. Soft, NT, ND.  No HSM
   EXTREMITIES: No edema or calf pain, 2+ dorsalis pedis/ posterior tibial
   pulses.
   SKIN: No rashes/lesions, ecchymoses.
   NEURO: A&Ox3. Appropriate. CN 2-12 grossly intact. Gait assessment
   deferred
   PSYCH: Listens and responds to questions appropriately, pleasant
   Labs / Radiology
   48 K/uL
   7.2 g/dL
   90 mg/dL
   1.0 mg/dL
   26 mEq/L
   3.5 mEq/L
   9 mg/dL
   105 mEq/L
   139 mEq/L
   22.3 %
   13.9 K/uL
        [image002.jpg]
                             [**2185-8-15**]  01:13 AM
                             [**2185-8-15**]  04:54 AM
                             [**2185-8-15**]  11:48 AM
                             [**2185-8-15**]  12:27 PM
                             [**2185-8-15**]  05:35 PM
                             [**2185-8-15**]  07:02 PM
                             [**2185-8-15**]  09:43 PM
                             [**2185-8-15**]  10:09 PM
                             [**2185-8-16**]  03:50 AM
                             [**2185-8-16**]  04:08 AM
   WBC
   11.0
   14.1
   13.9
   Hct
   24.5
   24.4
   22.3
   Plt
   54
   52
   48
   Cr
   0.8
   0.9
   1.0
   1.0
   TCO2
   32
   29
   28
   29
   31
   Glucose
   60
   145
   108
   128
   90
   Other labs: PT / PTT / INR:12.4/30.4/1.0, ALT / AST:32/36, Alk Phos / T
   Bili:68/0.4, Differential-Neuts:94.2 %, Band:0.0 %, Lymph:2.6 %,
   Mono:1.1 %, Eos:2.0 %, Albumin:3.3 g/dL, LDH:225 IU/L, Ca++:7.3 mg/dL,
   Mg++:1.4 mg/dL, PO4:1.6 mg/dL
   Assessment and Plan
 .H/O HEADACHE
 .H/O LYMPHOMA (CANCER, MALIGNANT NEOPLASM, LYMPHOID)
 HYPERTENSION, MALIGNANT (HYPERTENSIVE CRISIS, HYPERTENSIVE EMERGENCY)
   63-year-old male with DM-II, HTN, CAD, CKD, non-Hodgkin B-cell lymphoma
   s/p chemotherapy (no radiation therapy), s/p kidney transplant (on
   Rapamune & Prednisone) who presents with worsening HTN urgency and 2
   weeks of throbbing headaches and found to have extensive bihemispheric
   white matter lesions on MRI (R temporal and L parieto-occipital), most
   likely representing progression of his NHBCL now s/p bx on CVVHD to
   initiate chemotherapy.
   #HEME/Oncology: B-cell lymphoma diagnosed [**1-/2185**], patient is now s/p 6
   cycles of chemotherapy (R-[**Hospital1 **] x5, R-CHOP x1) and 2 cycles of IT ara-C
   with last dose given on [**2185-7-13**] per OMR. No radiation therapy. Patient
   had been on immunosuppression meds for many years for renal transplant
   which may have played role in malignancy risk. Followed here by Dr.
   [**Last Name (STitle) 6604**] & Dr. [**Last Name (STitle) 3337**].  Will plan to continue CVVHD until methotrexate
   level is <0.05
   -- s/p methotrexate, continue to monitor urine pH (goal pH < 7.5) and
   adjust bicarb as necessary
   --continue prednisone
   --sirolimus level low at 3.6, pharmacy to redose
   --check methotrexate q 24 hrs
   --q 4 urine pH, adjust bicarb as indicated
   --continue leucovorin for total 12 doses
   .
   #Neck pain: Patient with new neck pain overnight in the paraspinous
   region.  Neck plain films were unremarkable.  Concern for MS [**First Name (Titles) **] [**Last Name (Titles) **]
   infectious process, however pt does not have markedly increased temp or
   WBC.  Less concerned for meningitis given physical exam.  Pt does have
   dialysis catheter in place which could be contributing to his pain as
   well.  MRI of the neck would be helpful to assess for abcess however
   this is difficult while pt is on CVVHD.
   -continue to follow WBC, fever curve
   -will discuss with neurosurg
   -MRI if pt still symptomatic after CVVHD complete
   -benzos, oxycodone for pain
   .
   #Headaches: Likely due to multiple lesions noted on brain MRI rather
   than poorly controlled HTN.  Biopsy is concerning for tumor spread. LP
   CSF with 2WBC, 1RBC, 85 lymphocytes, 15 monos, elevated protein of 162,
   glucose in the 70s.
   --appreciate neurology/neurosurg recs
   --continue Tylenol PRN pain
   --f/u final results of brain biopsy
   .
   #Hypertension: In regards to his HTN, it appears his SBPs have been
   intermittently in the 170s over last month per OMR notes.  His usual
   lisinopril and lasix have been discontinued for unclear reasons (likely
   related to his chemotherapies). Of note, he also had borderline
   pulmonary artery systolic hypertension on [**5-/2185**] TTE.  Pt arrived from
   the ED on nitro gtt.
   --keep goal 130<SBP<160  per neurosurg recs
   --continue po labatelol and clonidine; off of labetolol gtt, will add
   hydralizine if BPs are not controlled, avoid gtt if possible
   #Renal transplant: On CVVHD for dialysis of methotrexate. His
   creatinine nl, good UOP. He is on sirolimus and prednisone for
   immunosuppression. Goal is fluid neutral per renal recs.  Unfortunately
   CVVHD has repeatedly clotted off.
   --Will continue with CVVHD until methotrexate level is <0.05
   --q6 labs
   --avoiding nephrotoxic medications
   --trend BUN/Cr
   --pharmacy to redose Rapamycin
   # Diabetes mellitus II: Etiology of his renal failure per OMR. Usually
   on home Lantus with humalog sliding scale. Followed by [**Hospital 294**] Clinic.
   --minimal insulin requirements o/n, will follow and increase standing
   insulin if indicated
   --continue ISS
   --continue diabetic/cardiac diet
   # Coronary artery disease: status-post 3V CABG in [**2173**]. No chest pain,
   EKG with no ischemic changes. He remains asymptomatic currently in
   [**Hospital Unit Name 10**]. Aspirin on hold due to IT chemotherapy per OMR.
   --continue PO labetalol, clonidine, add hydralizine if pressures remain
   poorly controled
   --holding ASA, statin for now.
   #Phantom limb pain: continue tylenol as needed, recently stopped taking
   Vicodin.
   ICU Care
   Nutrition: diabetic/ renal diet
   Glycemic Control:  HSSI
   Lines:
   Arterial Line - [**2185-8-11**] 09:07 PM
   Dialysis Catheter - [**2185-8-12**] 03:54 PM
   22 Gauge - [**2185-8-13**] 10:00 PM
   Prophylaxis:
   DVT: sc heparin (watch as platlets dropping)
   Stress ulcer: famotidine
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: pending completion of CVVHD

2185-08-17 06:15:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Headache, chemotherapy monitoring
   24 Hour Events:
 BLOOD CULTURED - At [**2185-8-16**] 10:00 PM
   1 set from dialysis line, 1 set from art line
 FEVER - 101.9
F - [**2185-8-17**] 12:20 AM
   -enterococci in urine
   --CVVHD dc
   -1U blood given for crit drop
   Allergies:
   Adhesive Tape (Topical)
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Dextrose 50% - [**2185-8-16**] 09:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2185-8-17**] 06:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.8
C (101.9
   Tcurrent: 37.5
C (99.5
   HR: 79 (75 - 95) bpm
   BP: 155/53(86) {97/43(69) - 201/67(108)} mmHg
   RR: 25 (13 - 25) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 85.7 kg (admission): 74.4 kg
   Height: 68 Inch
           Total In:
                                                                  9,622 mL
                                                                    518 mL
   PO:
                                                                     30 mL
                                                                     30 mL
   TF:
   IVF:
                                                                  9,492 mL
                                                                    212 mL
   Blood products:
   276 mL
   Total out:
                                                                  5,828 mL
                                                                    370 mL
   Urine:
                                                                    955 mL
                                                                    370 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,794 mL
                                                                    148 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: 7.47/45/76.[**Numeric Identifier 433**]/31/8
   Physical Examination
   GENERAL: Pleasant, well appearing
   HEENT: Normocephalic, atraumatic.  No conjunctival pallor. No scleral
   icterus. PERRLA/EOMI. MMM. OP clear.  Neck no longer painful to
   palpation.  No nuchal rigidity
   CARDIAC: Regular rhythm, normal rate. Normal S1, S2. No murmurs, rubs
   or [**Last Name (un) 2911**].
   LUNGS: CTAB, good air movement biaterally.
   ABDOMEN: NABS. Soft, NT, ND.  No HSM
   EXTREMITIES: No edema or calf pain, 2+ dorsalis pedis/ posterior tibial
   pulses.
   SKIN: No rashes/lesions, ecchymoses.
   NEURO: A&Ox3. Appropriate. CN 2-12 grossly intact. Gait assessment
   deferred
   PSYCH: Listens and responds to questions appropriately, pleasant
   Labs / Radiology
   34 K/uL
   7.9 g/dL
   102 mg/dL
   1.2 mg/dL
   31 mEq/L
   3.2 mEq/L
   12 mg/dL
   98 mEq/L
   136 mEq/L
   23.7 %
   8.4 K/uL
        [image002.jpg] cx-urine with enterococci sp
                             [**2185-8-15**]  05:35 PM
                             [**2185-8-15**]  07:02 PM
                             [**2185-8-15**]  09:43 PM
                             [**2185-8-15**]  10:09 PM
                             [**2185-8-16**]  03:50 AM
                             [**2185-8-16**]  04:08 AM
                             [**2185-8-16**]  09:28 AM
                             [**2185-8-16**]  04:21 PM
                             [**2185-8-16**]  10:15 PM
                             [**2185-8-17**]  04:46 AM
   WBC
   14.1
   13.9
   8.4
   Hct
   24.4
   22.3
   20.7
   23.7
   Plt
   52
   48
   34
   Cr
   1.0
   1.0
   1.0
   1.2
   TCO2
   28
   29
   31
   34
   Glucose
   108
   128
   90
   64
   102
   Other labs: PT / PTT / INR:11.6/29.0/1.0, ALT / AST:27/51, Alk Phos / T
   Bili:67/0.5, Differential-Neuts:94.2 %, Band:0.0 %, Lymph:2.6 %,
   Mono:1.1 %, Eos:2.0 %, Albumin:3.3 g/dL, LDH:274 IU/L, Ca++:7.9 mg/dL,
   Mg++:1.6 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
 .H/O HEADACHE
 .H/O LYMPHOMA (CANCER, MALIGNANT NEOPLASM, LYMPHOID)
 HYPERTENSION, MALIGNANT (HYPERTENSIVE CRISIS, HYPERTENSIVE EMERGENCY)
   63-year-old male with DM-II, HTN, CAD, CKD, non-Hodgkin B-cell lymphoma
   s/p chemotherapy (no radiation therapy), s/p kidney transplant (on
   Rapamune & Prednisone) who presents with worsening HTN urgency and 2
   weeks of throbbing headaches and found to have extensive bihemispheric
   white matter lesions on MRI (R temporal and L parieto-occipital), most
   likely representing progression of his NHBCL now s/p bx on CVVHD to
   initiate chemotherapy.
   #HEME/Oncology: B-cell lymphoma diagnosed [**1-/2185**], patient is now s/p 6
   cycles of chemotherapy (R-[**Hospital1 **] x5, R-CHOP x1) and 2 cycles of IT ara-C
   with last dose given on [**2185-7-13**] per OMR. No radiation therapy. Patient
   had been on immunosuppression meds for many years for renal transplant
   which may have played role in malignancy risk. Followed here by Dr.
   [**Last Name (STitle) 6604**] & Dr. [**Last Name (STitle) 3337**].  Will plan to continue CVVHD until methotrexate
   level is <0.05
   -- s/p methotrexate, continue to monitor urine pH (goal pH < 7.5) and
   adjust bicarb as necessary
   --continue prednisone
   --sirolimus level low at 3.6, pharmacy to redose
   --check methotrexate q 24 hrs
   --q 4 urine pH, adjust bicarb as indicated
   --continue leucovorin for total 12 doses
   .
   #Neck pain: Patient with new neck pain overnight in the paraspinous
   region.  Neck plain films were unremarkable.  Concern for MS [**First Name (Titles) **] [**Last Name (Titles) **]
   infectious process, however pt does not have markedly increased temp or
   WBC.  Less concerned for meningitis given physical exam.  Pt does have
   dialysis catheter in place which could be contributing to his pain as
   well.  MRI of the neck would be helpful to assess for abcess however
   this is difficult while pt is on CVVHD.
   -continue to follow WBC, fever curve
   -will discuss with neurosurg
   -MRI if pt still symptomatic after CVVHD complete
   -benzos, oxycodone for pain
   .
   #Headaches: Likely due to multiple lesions noted on brain MRI rather
   than poorly controlled HTN.  Biopsy is concerning for tumor spread. LP
   CSF with 2WBC, 1RBC, 85 lymphocytes, 15 monos, elevated protein of 162,
   glucose in the 70s.
   --appreciate neurology/neurosurg recs
   --continue Tylenol PRN pain
   --f/u final results of brain biopsy
   .
   #Hypertension: In regards to his HTN, it appears his SBPs have been
   intermittently in the 170s over last month per OMR notes.  His usual
   lisinopril and lasix have been discontinued for unclear reasons (likely
   related to his chemotherapies). Of note, he also had borderline
   pulmonary artery systolic hypertension on [**5-/2185**] TTE.  Pt arrived from
   the ED on nitro gtt.
   --keep goal 130<SBP<160  per neurosurg recs
   --continue po labatelol and clonidine; off of labetolol gtt, will add
   hydralizine if BPs are not controlled, avoid gtt if possible
   #Renal transplant: On CVVHD for dialysis of methotrexate. His
   creatinine nl, good UOP. He is on sirolimus and prednisone for
   immunosuppression. Goal is fluid neutral per renal recs.  Unfortunately
   CVVHD has repeatedly clotted off.
   --Will continue with CVVHD until methotrexate level is <0.05
   --q6 labs
   --avoiding nephrotoxic medications
   --trend BUN/Cr
   --pharmacy to redose Rapamycin
   # Diabetes mellitus II: Etiology of his renal failure per OMR. Usually
   on home Lantus with humalog sliding scale. Followed by [**Hospital 294**] Clinic.
   --minimal insulin requirements o/n, will follow and increase standing
   insulin if indicated
   --continue ISS
   --continue diabetic/cardiac diet
   # Coronary artery disease: status-post 3V CABG in [**2173**]. No chest pain,
   EKG with no ischemic changes. He remains asymptomatic currently in
   [**Hospital Unit Name 10**]. Aspirin on hold due to IT chemotherapy per OMR.
   --continue PO labetalol, clonidine, add hydralizine if pressures remain
   poorly controled
   --holding ASA, statin for now.
   #Phantom limb pain: continue tylenol as needed, recently stopped taking
   Vicodin.
   ICU Care
   Nutrition: diabetic/ renal diet
   Glycemic Control:  HSSI
   Lines:
   Arterial Line - [**2185-8-11**] 09:07 PM
   Dialysis Catheter - [**2185-8-12**] 03:54 PM
   22 Gauge - [**2185-8-13**] 10:00 PM
   Prophylaxis:
   DVT: sc heparin (watch as platlets dropping)
   Stress ulcer: famotidine
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: pending completion of CVVHD

2185-08-18 07:04:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 SPUTUM CULTURE - At [**2185-8-17**] 12:28 PM
 FEVER - 101.3
F - [**2185-8-18**] 04:00 AM
   No acute events overnight.
   Allergies:
   Adhesive Tape (Topical)
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2185-8-17**] 08:05 PM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2185-8-17**] 08:05 PM
   Metoprolol - [**2185-8-18**] 03:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2185-8-18**] 06:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.5
C (101.3
   Tcurrent: 37.6
C (99.6
   HR: 78 (71 - 88) bpm
   BP: 164/69(99) {99/32(52) - 182/98(116)} mmHg
   RR: 15 (15 - 30) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 85.7 kg (admission): 74.4 kg
   Height: 68 Inch
             Total In:
                                                                  2,116 mL
                                                                     67 mL
   PO:
                                                                    900 mL
             TF:
   IVF:
                                                                    940 mL
                                                                     67 mL
   Blood products:
                                                                    276 mL
   Total out:
                                                                  1,120 mL
                                                                    205 mL
   Urine:
                                                                  1,120 mL
                                                                    205 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    996 mL
                                                                   -138 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: 7.49///28/
   Physical Examination
   GENERAL: Pleasant, well appearing
   HEENT: Biopsy site c/d/i.  No conjunctival pallor. No scleral icterus.
   PERRLA/EOMI. MMM. OP clear.  Neck no longer painful to palpation.  No
   nuchal rigidity, no circumoral cyanosis
   CARDIAC: Irregular rhythm, normal rate. Normal S1, S2. No murmurs, rubs
   or [**Last Name (un) 2911**].
   LUNGS: mildly decreased breath sounds bilaterally in lung bases,
   otherwise clear to auscultation.
   ABDOMEN: NABS. Soft, NT, ND.  No HSM
   EXTREMITIES: Bilateral upper extremities with 1+ edema, no edema in
   LE
s.  no calf pain, 2+ dorsalis pedis/ posterior tibial pulses, no
   cyanosis. Left AKA.
   SKIN: No rashes/lesions, ecchymoses, warm to touch
   NEURO: A&Ox3. Appropriate. CN 2-12 grossly intact.
   Labs / Radiology
   25 K/uL
   8.2 g/dL
   59 mg/dL
   1.5 mg/dL
   28 mEq/L
   3.8 mEq/L
   18 mg/dL
   99 mEq/L
   134 mEq/L
   24.9 %
   9.7 K/uL
        [image002.jpg]
                             [**2185-8-15**]  07:02 PM
                             [**2185-8-15**]  09:43 PM
                             [**2185-8-15**]  10:09 PM
                             [**2185-8-16**]  03:50 AM
                             [**2185-8-16**]  04:08 AM
                             [**2185-8-16**]  09:28 AM
                             [**2185-8-16**]  04:21 PM
                             [**2185-8-16**]  10:15 PM
                             [**2185-8-17**]  04:46 AM
                             [**2185-8-18**]  03:04 AM
   WBC
   13.9
   8.4
   9.7
   Hct
   22.3
   20.7
   23.7
   24.9
   Plt
   48
   34
   25
   Cr
   1.0
   1.0
   1.2
   1.5
   TCO2
   28
   29
   31
   34
   Glucose
   128
   90
   64
   102
   47
   59
   Other labs: PT / PTT / INR:11.6/29.0/1.0, ALT / AST:22/46, Alk Phos / T
   Bili:77/0.4, Differential-Neuts:97.0 %, Band:0.0 %, Lymph:1.0 %,
   Mono:1.0 %, Eos:1.0 %, Albumin:3.3 g/dL, LDH:293 IU/L, Ca++:7.9 mg/dL,
   Mg++:2.0 mg/dL, PO4:2.4 mg/dL
   HIT Antibody negative
   MICRO: Enterococcus in urine, ampicillin sensitive
   RADS: no new studies
   Assessment and Plan
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 DIABETES MELLITUS (DM), TYPE II
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 H/O HEADACHE
 H/O LYMPHOMA (CANCER, MALIGNANT NEOPLASM, LYMPHOID)
 HYPERTENSION, MALIGNANT (HYPERTENSIVE CRISIS, HYPERTENSIVE EMERGENCY)
   63-year-old male with DM-II, HTN, CAD, CKD, non-Hodgkin B-cell lymphoma
   s/p chemotherapy (no radiation therapy), s/p kidney transplant (on
   Rapamune & Prednisone) who presents with worsening HTN urgency and 2
   weeks of throbbing headaches and found to have extensive bihemispheric
   white matter lesions on MRI (R temporal and L parieto-occipital), most
   likely representing progression of his NHBCL now s/p bx and MTX
   chemotherapy.
   #HEME/Oncology: B-cell lymphoma diagnosed [**1-/2185**], patient is now s/p 6
   cycles of chemotherapy (R-[**Hospital1 **] x5, R-CHOP x1) and 2 cycles of IT ara-C
   with last dose given on [**2185-7-13**] per OMR. No radiation therapy. Patient
   had been on immunosuppression meds for many years for renal transplant
   which may have played role in malignancy risk. Followed here by Dr.
   [**Last Name (STitle) 6604**] & Dr. [**Last Name (STitle) 3337**].  Methotrexate level <0.05 yesterday, therefore
   [**Last Name (STitle) 446**] dc
d. Completed course of Leucovorin.
   --appreciate BMT following
   --continue prednisone
   --Due to worsening thrombocytopenia, renal service recommends changing
   sirolimus to Tacrolimus.  Pt previously on tacrolimus but switched due
   to vasospasm? Will d/c sirolimus and start Tacrolimus 1 mg PO bid per
   renal recommendations.
   # Fever/elevated WBC: Pt with ampicillin sensitive enterococcus in
   urine.  On speaking with wife, Mr. [**Name13 (STitle) 3741**] has had 2 UTI
s, treated with
   ampicilin in past month, last treatment completed late [**Month (only) **].  Pt also
   had new consolidations on CXR ([**8-17**]) concerning for edema vs infection
   vs methotrexate toxicity.  Considering that UA
s have had no
   leukocytes, will consider other sources of infection if continues to be
   febrile.  Other sites include temporary R IJ hemodialysis catheter,
   proctatitis, or PNA due to cough.
   - Continue Ampicillin
   - repeat sputum culture
   - consider taking out foley due to positive culture
   - follow WBC and fever curve
   #Thrompocytopenia: HIT negative, thrombocytopenia due to chemotherapy
   unlikely due to timing.  Per renal, possibility that serolimus could be
   causing thrombocytopenia
 discuss with renal who mentioned possibility
   of switching to prograf.
   -          Will not resume heparin based on HIT neg since platelets=25
   and bleeding risk possible.
   -          Switch rapamune to prgraf per renal recs
   -          Monitor platelet count daily
   -          Monitor for bleeding
   #Anemia:  Pt with anemia of chronic disease.  Received 1 unit PRBCs
   last night, hematocrit stable.  Guaiac negative, no active bleeding.
   -follow crit
   -transfuse for crit<21
   -active type and screen
   #Neck pain: Patient
s neck pain has resolved.   Likely MS in origin.
   Will continue PRN
s for pain.
   -benzos, oxycodone for pain
   #Headaches: Improved, likely due to multiple lesions noted on brain MRI
   rather than poorly controlled HTN.  Biopsy is concerning for tumor
   spread. LP CSF with 2WBC, 1RBC, 85 lymphocytes, 15 monos, elevated
   protein of 162, glucose in the 70s.
   --will follow up with neuro consult
   --continue Tylenol PRN pain
   --f/u final results of brain biopsy, still pending [**8-18**]
   #Hypertension: Switched from Labetolol to Cardevilol yesterday due to
   low blood pressures (SBP in 100
s).  Pt had not received BP meds in 24
   hours due to hold parameters.  On cardevilol 12. 5mg [**Hospital1 **] and Clonidine
   0.1mg [**Hospital1 **], now hypertensive.  As outpatient, previously on lisinopril
   and lasix, but have been discontinued for unclear reasons (likely
   related to his chemotherapies). Of note, he also had borderline
   pulmonary artery systolic hypertension on [**5-/2185**] TTE.
   --goal BPs 120s/80s
   --continue cardevilol and clonidine. Add clonidine 1 mg patch to help
   control HTN.
   #Renal transplant: Creatinine level rising, now 1.5, however baseline
   around 1.7 Considering he was on [**Last Name (LF) 446**], [**First Name3 (LF) 116**] expect creatinine to
   return to baseline.  UOP 30cc/h, on average, is adequate. He is on
   sirolimus and prednisone for immunosuppression.
   --trend BUN/Cr
   --Change rapamycin to tacrolimus
   --will keep dialysis line in place for now, however will likely take
   out if patient continues to have fevers.
   # Diabetes mellitus II: Etiology of his renal failure per OMR. Usually
   on home Lantus with humalog sliding scale. Followed by [**Hospital 294**] Clinic.
   Pt had episode of hypoglycemia on labs again this morning, however,
   change in glargine dosing was not updated in nursing [**Month (only) **].
 amp D50
   given.
   --continue ISS and glargine at 7 units qhs
   --continue diabetic/cardiac diet
   # Coronary artery disease: status-post 3V CABG in [**2173**]. No chest pain,
   EKG with no ischemic changes. He remains asymptomatic currently in
   [**Hospital Unit Name 10**]. Aspirin on hold due to IT chemotherapy per OMR.
   --continue BP managment
   --holding ASA, statin for now.
   #Phantom limb pain: continue tylenol as needed
   ICU Care
   Nutrition: Regular
 Cardiac/Diabetic
   Glycemic Control:  ISS + glargine
   Lines:
   Arterial Line - [**2185-8-11**] 09:07 PM
   Dialysis Catheter - [**2185-8-12**] 03:54 PM
   20 Gauge - [**2185-8-16**] 07:56 PM
   Prophylaxis:
   DVT: SCDs
   Stress ulcer: Famotidine
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: Transfer to BMT service this afternoon if possible.

2185-08-19 06:20:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - C. diff pos, started flagyl 500mg q8h
   - febrile
   - high blood pressure in the setting of phantom limb pain and headache
   this am
   Allergies:
   Adhesive Tape (Topical)
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2185-8-17**] 08:05 PM
   Acyclovir - [**2185-8-18**] 08:00 PM
   Metronidazole - [**2185-8-18**] 11:56 PM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2185-8-18**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2185-8-19**] 06:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.7
   Tcurrent: 37.4
C (99.4
   HR: 83 (75 - 85) bpm
   BP: 171/63(99) {134/49(78) - 188/79(113)} mmHg
   RR: 19 (17 - 24) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 85.7 kg (admission): 74.4 kg
   Height: 68 Inch
             Total In:
                                                                    600 mL
                                                                     63 mL
   PO:
                                                                    360 mL
             TF:
   IVF:
                                                                    240 mL
                                                                     63 mL
   Blood products:
   Total out:
                                                                  1,135 mL
                                                                    300 mL
   Urine:
                                                                  1,135 mL
                                                                    300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -535 mL
                                                                   -237 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///28/
   Physical Examination
   GENERAL: appears in pain
   HEENT: Biopsy site c/d/i.  No conjunctival pallor. No scleral icterus.
   PERRLA/EOMI. MMM. OP clear.  Neck no longer painful to palpation.  No
   nuchal rigidity
   CARDIAC: Irregular rhythm, normal rate. Normal S1, S2. No murmurs, rubs
   or [**Last Name (un) 2911**].  No appreciable JVP
   LUNGS: mildly decreased breath sounds bilaterally in lung bases,
   otherwise clear to auscultation.
   ABDOMEN: soft, ND, mild tenderness to palpation in LUQ, +BS
   EXTREMITIES: anasarca.  no calf pain, 2+ dorsalis pedis/ posterior
   tibial pulses, no cyanosis. Left AKA.
   SKIN: No rashes/lesions, ecchymoses, warm to touch
   NEURO: A&Ox2. Appropriate. CN 2-12 grossly intact.
   Labs / Radiology
   16 K/uL
   7.6 g/dL
   91 mg/dL
   1.5 mg/dL
   28 mEq/L
   4.1 mEq/L
   23 mg/dL
   100 mEq/L
   133 mEq/L
   23.4 %
   7.8 K/uL
        [image002.jpg]
                             [**2185-8-15**]  10:09 PM
                             [**2185-8-16**]  03:50 AM
                             [**2185-8-16**]  04:08 AM
                             [**2185-8-16**]  09:28 AM
                             [**2185-8-16**]  04:21 PM
                             [**2185-8-16**]  10:15 PM
                             [**2185-8-17**]  04:46 AM
                             [**2185-8-18**]  03:04 AM
                             [**2185-8-18**]  05:01 PM
                             [**2185-8-19**]  03:28 AM
   WBC
   13.9
   8.4
   9.7
   8.9
   7.8
   Hct
   22.3
   20.7
   23.7
   24.9
   22.9
   23.4
   Plt
   48
   34
   25
   20
   16
   Cr
   1.0
   1.0
   1.2
   1.5
   1.6
   1.5
   TCO2
   29
   31
   34
   Glucose
   90
   64
   102
   47
   59
   125
   91
   Other labs: PT / PTT / INR:11.9/27.1/1.0, ALT / AST:23/33, Alk Phos / T
   Bili:105/0.4, Differential-Neuts:97.0 %, Band:0.0 %, Lymph:1.0 %,
   Mono:1.0 %, Eos:1.0 %, Albumin:3.3 g/dL, LDH:257 IU/L, Ca++:7.6 mg/dL,
   Mg++:2.1 mg/dL, PO4:2.4 mg/dL
   Final Pathology report [**8-11**]: confirmed B-cell lymphoma
   B-cell CD20: positive
   B-cell CD79a: positive
   CD10: positive
   BCL-6: positive
   BCL-2: dim/minor subset show positive staining
   MIB-1: 80-90% positive
   T-cell markers CD3, CD4, CD8: negative
   C. diff: positive
   Assessment and Plan
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 DIABETES MELLITUS (DM), TYPE II
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 .H/O HEADACHE
 .H/O LYMPHOMA (CANCER, MALIGNANT NEOPLASM, LYMPHOID)
 HYPERTENSION, MALIGNANT (HYPERTENSIVE CRISIS, HYPERTENSIVE EMERGENCY)
   63-year-old male with DM-II, HTN, CAD, CKD, non-Hodgkin B-cell lymphoma
   s/p chemotherapy (no radiation therapy), s/p kidney transplant (on
   Rapamune & Prednisone) who presents with worsening HTN urgency and 2
   weeks of throbbing headaches and found to have extensive bihemispheric
   white matter lesions on MRI (R temporal and L parieto-occipital), most
   likely representing progression of his NHBCL now s/p bx and MTX
   chemotherapy.
   #HEME/Oncology: B-cell lymphoma diagnosed [**1-/2185**] s/p 6 cycles of
   chemotherapy (R-[**Hospital1 **] x5, R-CHOP x1) and 2 cycles of IT ara-C with last
   dose given on [**2185-7-13**] per OMR. No radiation therapy. Patient had been on
   immunosuppression meds for many years for renal transplant which may
   have played role in malignancy risk. Followed here by Dr. [**Last Name (STitle) 6604**] & Dr.
   [**Last Name (STitle) 3337**].  On this hospitalization, patient present with CNS recurrence
   confirmed by biopsy on [**8-11**].  s/p Methotrexate with [**Month/Day (2) 446**] to prevent
   renal toxicity.  Methotrexate level <0.05 on [**8-12**], therefore [**Month/Day (4) 446**] dc
   --appreciate BMT following
   --continue leucocorvin as per oncology recs
   --Due to worsening thrombocytopenia, renal service recommended changing
   sirolimus to Tacrolimus.  Pt previously on tacrolimus but switched due
   to vasospasm? started Tacrolimus 1 mg PO bid per renal recommendations.
   -- chronic H/As [**3-14**] brain metastases, controlled with oxycodone prn
   # Fever/elevated WBC: C. difficile toxin positive yesterday.  Pt with
   ampicillin sensitive enterococcus in urine.  On speaking with wife, Mr.
   [**Name13 (STitle) 3741**] has had 2 UTI
s, treated with ampicilin in past month, last
   treatment completed late [**Month (only) **].  Pt also had new consolidations on CXR
   ([**8-17**]) concerning for edema vs infection vs methotrexate toxicity.
   Considering that UA
s have had no leukocytes, will consider other
   sources of infection if continues to be febrile.  Other sites include
   temporary R IJ hemodialysis catheter, proctatitis, or PNA due to cough.
   - Continue Ampicillin (day [**3-26**]) for complicated UTI
   - d/c foley
   -recommend prostate US/ biopsy after acute issues resolve to f/u source
   of recurrent UTIs
   - continue flagyl (day 2)
   - follow WBC and fever curve
   #Thrompocytopenia: HIT negative, thrombocytopenia due to chemotherapy
   unlikely due to timing.  Per renal, possibility that serolimus could be
   causing thrombocytopenia
 discuss with renal who mentioned possibility
   of switching to prograf.
   - Will not resume heparin based on HIT neg since platelets=25 and
   bleeding risk possible.
   - Switch rapamune to prgraf per renal recs, level pending
   - Monitor platelet count daily
   - transfuse 1 unit platelets now to pull IJ line and place picc line
   #Anemia:  Pt with anemia of chronic disease.  Received 1 unit PRBCs
   last night, hematocrit stable.  Guaiac negative, no active bleeding.
   -follow crit
   -transfuse for crit<21
   -active type and screen
   #Neck pain: Patient
s neck pain has resolved.   Likely MS in origin.
   Will continue PRN
s for pain.
   -- benzos, oxycodone for pain
   #Hypertension: On home medications of carvedilol 12.5 mg [**Hospital1 **] and
   clonidine 0.1 mg [**Hospital1 **].  As outpatient, previously on lisinopril and
   lasix, but have been discontinued for unclear reasons (likely related
   to his chemotherapies). Of note, he also had borderline pulmonary
   artery systolic hypertension on [**5-/2185**] TTE.
   --goal BPs 120s/80s
   --continue cardevilol and clonidine.  Transitioned PO clonidine to
   transdermal clonidine for better control
   -- HTN episodes seem more related to uncontrolled pain than inadequate
   BP medications
   -- d/c arterial line once adequate IV access available
   #Renal transplant: Creatinine level rising, now 1.5, however baseline
   around 1.7 Considering he was on [**Last Name (LF) 446**], [**First Name3 (LF) 116**] expect creatinine to
   return to baseline.  UOP 30cc/h, on average, is adequate. He is on
   sirolimus and prednisone for immunosuppression.
   --trend BUN/Cr
   --started rapamycin, level pending
   --d/c dialysis catheter today after platelet transfusion
   # Diabetes mellitus II: Etiology of his renal failure per OMR. Usually
   on home Lantus with humalog sliding scale. Followed by [**Hospital 294**] Clinic.
   Pt had episode of hypoglycemia on labs again this morning, however,
   change in glargine dosing was not updated in nursing [**Month (only) **].
 amp D50
   given.
   --d/c glargine secondary to repeat hypoglycemic episodes in the setting
   of poor PO intake
   -- continue SSI
   --continue diabetic/cardiac diet
   # Coronary artery disease: status-post 3V CABG in [**2173**]. No chest pain,
   EKG with no ischemic changes. He remains asymptomatic currently in
   [**Hospital Unit Name 10**]. Frequent PVCs on telemetry but patient is asymptomatic.  Aspirin
   on hold due to IT chemotherapy per OMR.
   --continue BP managment
   --holding ASA, statin for now.
   #Phantom limb pain: continue tylenol as needed
   ICU Care
   Nutrition: regular/ diabetic diet with supplements
   Glycemic Control:  HSSI
   Lines:
   Arterial Line - [**2185-8-11**] 09:07 PM
   Dialysis Catheter - [**2185-8-12**] 03:54 PM
   22 Gauge - [**2185-8-18**] 04:05 PM
   Prophylaxis:
   DVT: pneumoboot
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: stable, ready for transfer to floor